US05358955
To a solution of 3-cyclohexyl-2-[4-(quinolin-2-yl-methoxy)phenyl]propionic acid methyl ester (650 mg; 1.6 mmol) in methanol (20 ml) was added 1N sodium hydroxide (3 ml) and the mixture was stirred at 50° C. for 10 h. The methanol was removed in vacuo, to the residue was added 10 ml of water and the resulting mixture was acidified to pH 4. The precipitated solid was filtered, washed with water and dried in vacuo to provide 550 mg of 3-cyclohexyl-2-[4-(quinolin-2-yl-methoxy)phenyl]propionic acid, mp. 148°-150° C.

reactant | 3-cyclohexyl-2-[4-(quinolin-2-yl-methoxy)phenyl]propionic acid methyl ester | 1.6 mmol, 650 mg | COC(C(CC1CCCCC1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C26H29NO3
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-cyclohexyl-2-[4-(quinolin-2-yl-methoxy)phenyl]propionic acid | 550 mg | C1(CCCCC1)CC(C(=O)O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C25H27NO3
